US06673795B2
In analogy to the procedure described in example 84c, 3-methylsulfanyl-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile was treated with N-Boc-ethylene-diamine in a sealed tube at 130° C. during 48 hours to yield {2-[6-cyano-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester as an amorphous, light yellow solid; MS: [M+H]+=425.

reactant | 3-methylsulfanyl-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazine-6-carbonitrile | CSC=1N=NC(=C(N1)N1CCN(CC1)C1=CC=CC=C1)C#N | C15H16N6S
reactant | N-Boc-ethylene-diamine | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
product | {2-[6-cyano-5-(4-phenyl-piperazin-1-yl)-[1,2,4]triazin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC=1N=NC(=C(N1)N1CCN(CC1)C1=CC=CC=C1)C#N)=O | C21H28N8O2
